US08071807B2
As described for Example 10, [3-(2-bromomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and benzyl mercaptan were reacted to provide [3-(2-benzylsulfanylmethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester, which was reduced to [3-(4-amino-2-benzylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and then treated with 4-chlorobenzoyl chloride to provide {3-[2-benzylsulfanylmethyl-4-(4-chloro-benzoylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester. Hydrolysis of the ester provided Compound 18.

reactant | [3-(2-bromomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CBr)=O | C18H18BrNO6
reactant | benzyl mercaptan | C(C1=CC=CC=C1)S | C7H8S
product | [3-(2-benzylsulfanylmethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC1=CC=CC=C1)=O | C25H25NO6S
